US07732448B2
Into 2 ml of N,N-dimethylformamide was resolved 183 mg of 4-chloro-6-(2-butynyloxy)pyrimidine, 166 mg of potassium carbonate and 99 mg of 2-methylpiperidine was added therein, and the mixture was stirred for 4 hours at 80 and 3 hours at 120° C. The reaction mixture was cooled to near room temperature, ethyl acetate was added therein, and the mixture was washed with a saturated sodium chloride aqueous solution three times. The organic layers were dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 66 mg of 4-(2-butynyloxy)-6-(2-methylpiperidino)pyrimidine (hereinafter, referred to as Compound (20)).

reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 183 mg | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylpiperidine | 99 mg | CC1NCCCC1 | C6H13N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-butynyloxy)-6-(2-methylpiperidino)pyrimidine | 66 mg | C(C#CC)OC1=NC=NC(=C1)N1C(CCCC1)C | C14H19N3O
